US09145366B2
Preparation of 5-(3-chlorophenyl)-3-chloro-2-cyanopyridine (1):
A 20 L reactor equipped with a mechanical stirrer, dip tube, thermometer and nitrogen inlet was charged with (3-chlorophenyl)boronic acid (550 g, 3.52 mol), 3,5-dichloro-2-cyanopyridine (639 g, 3.69 mol), K2CO3 (5.5 g, 40 mmol), [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) [PdCl2(dppf)] (11.5 g, 140 mmol), and dimethylformamide (3894 g, 4.125 L). The reaction solution was agitated and purged with nitrogen through the dip-tube for 30 minutes. Degassed water (413 g) was then charged to the reaction mixture while maintaining a temperature of less than 50° C. 25 hours. The reaction was determined to be complete due to the disappearance of 3,5-dichloro-2-cyanopyridine as measured by TLC analysis using ethyl acetate/methanol (4:1) as the mobile phase and UV 435 nm to visualize the reaction components. The reaction solution was then cooled to 5° C. and charged with heptane (940 g, 1.375 L) and agitated for 30 minutes. Water (5.5 L) was charged and the mixture was further agitated for 1 hour as the temperature was allowed to rise to 15° C. The solid product was isolated by filtration and washed with water (5.5 L) followed by heptane (18881 g, 2750 ML). The resulting cake was air dried under vacuum for 18 hours and then triturated with a mixture of 2-propanol (6908 g, 8800 mL0 and heptane (1 g, 2200 mL0 at 50° C. for 4 hours, cooled to ambient temperature and then agitated at ambient temperature for 1 hour. The product was then isolated by filtration and washed with cold 2-propanol (3450 g, 4395 mL) followed by heptane (3010 g, 4400 mL). The resulting solid was dried under high vacuum at 40° C. for 64 hours to afford 565.9 g (65% yield) of the desired product as a beige solid. Purity by HPLC was 98.3. 1H NMR (DMSO-d6) δ 9.12 (d, 1H), 8.70 (d, 1H), 8.03 (t, 1H) 7.88 (m, 1H), and 7.58 (m, 2H).

reactant | (3-chlorophenyl)boronic acid | 3.52 mol, 550 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 3,5-dichloro-2-cyanopyridine | 3.69 mol, 639 g | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | dimethylformamide | 4.125 L, 3894 g | CN(C=O)C | C3H7NO
reactant | heptane | 1.375 L, 940 g | CCCCCCC | C7H16
catalyst | [1,1′-bis(diphenyphosphino)ferrocene]dichloro-palladium(II) | 140 mmol, 11.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | Water | 5.5 L | O | H2O
product | 5-(3-chlorophenyl)-3-chloro-2-cyanopyridine | 565.9 g, 65% yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)Cl | C12H6Cl2N2
